*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXJ250ARA561MJA0G
*//   Date        : 2023/11/09
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXJ250ARA561MJA0G_20deg-C 1 2

C1 4 2 3.13e-04
C2 5 2 1.32e-04
C3 6 2 6.85e-05
R1 3 4 1.26e-02
R2 4 5 7.62e-02
R3 5 6 1.20e+00
L1 1 3 4.50e-09

.ENDS
*$
